US06271225B1
In the same manner as in Example 1 and using ethyl 2-(2-amino-5-chloroanilino)benzo[b]thiophene-3-carboxylate (2.6 g), 1-methylpiperazine (15 ml), anisole (50 ml) and titanium tetrachloride (2.3 ml), 8-chloro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine (363 mg) was obtained.

reactant | ethyl 2-(2-amino-5-chloroanilino)benzo[b]thiophene-3-carboxylate | 2.6 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C(C=C1)Cl | C17H15ClN2O2S
reactant | 1-methylpiperazine | 15 ml | CN1CCNCC1 | C5H12N2
catalyst | titanium tetrachloride | 2.3 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | anisole | 50 ml | C1(=CC=CC=C1)OC | C7H8O
product | 8-chloro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | 363 mg | ClC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCN(CC2)C)C=C1 | C20H19ClN4S
